US07037938B2
A solution of tert-butyl [4-[4-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]benzyl]phenoxy]acetate (240 mg) and 4N hydrochloride in 1,4-dioxane (3.0 ml) was stirred at room temperature for 24 hours. The mixture was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (methanol/acetic acid/chloroform=10/1/100) to give a product. To a tetrahydrofuran (2.0 ml) solution of the product, 4N hydrogen chloride in 1,4-dioxane (1.0 ml) was added. The mixture was stirred for 5 minutes and evaporated under reduced pressure to give [4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenoxy]acetic acid hydrochloride (72 mg).

reactant | tert-butyl [4-[4-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]benzyl]phenoxy]acetate | 240 mg | C(C)(C)(C)OC(=O)N(C[C@H](O)C1=CC(=CC=C1)Cl)CCC1=CC=C(CC2=CC=C(OCC(=O)OC(C)(C)C)C=C2)C=C1 | C34H42ClNO6
reactant | hydrochloride | 4N | Cl | ClH
reactant | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | [4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenoxy]acetic acid hydrochloride | 72 mg | Cl.ClC=1C=C(C=CC1)[C@H](CNCCC1=CC=C(CC2=CC=C(OCC(=O)O)C=C2)C=C1)O | InChI=1S/C25H26ClNO4.ClH/c26-22-3-1-2-21(15-22)24(28)16-27-13-12-18-4-6-19(7-5-18)14-20-8-10-23(11-9-20)31-17-25(29)30;/h1-11,15,24,27-28H,12-14,16-17H2,(H,29,30);1H/t24-;/m0./s1
